US09062028B2
Step A. 2-(3-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)phenyl)acetonitrile
The title compound was prepared using a procedure analogous to methyl 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)picolinate except that methyl 4-bromopicolinate was replace with 2-(3-bromophenyl)acetonitrile. LCMS, [M+H]+=439.3.

reactant | methyl 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)picolinate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC(=NC=C2)C(=O)OC)C=CC=C1C | C28H30N2O4
reactant | methyl 4-bromopicolinate | BrC1=CC(=NC=C1)C(=O)OC | C7H6BrNO2
reactant | 2-(3-bromophenyl)acetonitrile | BrC=1C=C(C=CC1)CC#N | C8H6BrN
product | 2-(3-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)phenyl)acetonitrile | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=C(C=CC2)CC#N)C=CC=C1C | C29H30N2O2
